US06613772B1
2-(4-Chlorophenyl)-4-hydroxy-6,7-dimethoxyquinazoline (Intermediate)
21.3 g of 2-(4-chlorobenzoylamino)-4,5-dimethoxybenzamide were heated at 100° C. for 2 h in 250 ml of 10% strength sodium hydroxide solution. The starting compound gradually went into solution in the course of this and a little later a precipitate deposited again. The mixture was diluted with 500 ml of water and adjusted to pH=4 using concentrated hydrochloric acid. After stirring for a further 2 h, the solid was filtered off with suction, washed with plenty of water and dried at 40° C. under reduced pressure. Yield: 19.0 g. M.p.: 329° C.

reactant | 2-(4-chlorobenzoylamino)-4,5-dimethoxybenzamide | 21.3 g | ClC1=CC=C(C(=O)NC2=C(C(=O)N)C=C(C(=C2)OC)OC)C=C1 | C16H15ClN2O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 500 ml | O | H2O
product | 2-(4-Chlorophenyl)-4-hydroxy-6,7-dimethoxyquinazoline | ClC1=CC=C(C=C1)C1=NC2=CC(=C(C=C2C(=N1)O)OC)OC | C16H13ClN2O3
